US04072685
A solution of 5.55 g of N-allyl-3-(3',4'-dimethoxyphenyl)-piperidine in 55 ml of 66% hydrobromic acid was refluxed for an hour and was evaporated to dryness. The residue was crystallized from isopropanol and then acetonitrile to obtain 3.27 g of N-allyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide melting at 235° C.

reactant | N-allyl-3-(3',4'-dimethoxyphenyl)-piperidine | 5.55 g | C(C=C)N1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C16H23NO2
reactant | hydrobromic acid | 55 ml | Br | BrH
product | N-allyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide | 3.27 g | Br.C(C=C)N1CC(CCC1)C1=CC(=C(C=C1)O)O | InChI=1S/C14H19NO2.BrH/c1-2-7-15-8-3-4-12(10-15)11-5-6-13(16)14(17)9-11;/h2,5-6,9,12,16-17H,1,3-4,7-8,10H2;1H
